US03979444
The 4-hydroxymethyl-4-(4-fluorophenyl)cyclohexanone is dissolved in 50 ml. of pyridine and 30 ml. of acetic anhydride. After about 20 hours of standing at room temperature, the mixture is pured into ice and water. The gum that precipitates is extracted with ether. The organic layer is washed sucessively with water, 2.5 N hydrochloric acid, water, sodium bicarbonate solution and brine, and evaporated to dryness. The solid residue is recrystallized from ether to give 9.77 g. (57% yield) of 4-acetoxymethyl-4-(4-fluorophenyl)cyclohexanone, having a melting point of 80° to 84°C.

reactant | 4-hydroxymethyl-4-(4-fluorophenyl)cyclohexanone | OCC1(CCC(CC1)=O)C1=CC=C(C=C1)F | C13H15FO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 4-acetoxymethyl-4-(4-fluorophenyl)cyclohexanone | 57% yield | C(C)(=O)OCC1(CCC(CC1)=O)C1=CC=C(C=C1)F | C15H17FO3
